US05187156
A mixture of Boc-D-Trp-Phe-OBzl (1.0 g) and 24% methanolic ammonia (20 ml) was allowed to stand at room temperature in a sealed tube for 18 hours. After evaporation, the residual crystals were collected and recrystallized from a mixture of water and ethanol to give Boc-D-Trp-Phe-NH2 (0.63 g).

reactant | Boc-D-Trp-Phe-OBzl | 1.0 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C32H35N3O5
reactant | ammonia | 20 ml | N | H3N
product | Boc-D-Trp-Phe-NH2 | 0.63 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N)C(=O)OC(C)(C)C | C25H30N4O4
